US04248620
In this preparation 1-methyl-3-phenyl-5-imino-1,3-diazolidine-2,4-dione (10.15 g; 0.05 mol) was dissolved in 80 ml 1,2-dimethoxyethane. Chloral (13.7 g, 1.0 mol) was added followed by the addition of thionyl chloride (11.9 g, 1.0 mol). The temperature of the reaction mixture rose to 45° C. due to the exothermicity of the reaction. One hour later the temperature was back to 23° C. and a solid had formed. The solid (1.1 g) had a melting point 140-150 with some not melting at all. The filtrate was stripped to give 9.6 g of a crude material which was recrystallized from benzene and washed with ether to give 8.2 g (0.02 mol) of 1-methyl-3-phenyl-5-(1,2,2,2-tetrachloroethyl)imino-1,3-diazolidine-2,4-dione melting at 158°-160° C.

reactant | 1-methyl-3-phenyl-5-imino-1,3-diazolidine-2,4-dione | 0.05 mol, 10.15 g | CN1C(N(C(C1=N)=O)C1=CC=CC=C1)=O | C10H9N3O2
reactant | Chloral | 1.0 mol, 13.7 g | O=CC(Cl)(Cl)Cl | C2HCl3O
reactant | thionyl chloride | 1.0 mol, 11.9 g | S(=O)(Cl)Cl | Cl2OS
solvent | 1,2-dimethoxyethane | 80 ml | COCCOC | C4H10O2
product | 1-methyl-3-phenyl-5-(1,2,2,2-tetrachloroethyl)imino-1,3-diazolidine-2,4-dione | 0.02 mol, 8.2 g | CN1C(N(C(C1=NC(C(Cl)(Cl)Cl)Cl)=O)C1=CC=CC=C1)=O | C12H9Cl4N3O2
